US05721234
N2 -Methyl -2,5-diamino-6-bromo-4-nitroindane hydrochloride
A mixture of N2 -methyl-2,5-diacetamido-6-bromo-4-nitroindane (22.5 g, 61 mmol) in 3N HCl (150 mL) and acetic acid (50 mL) was heated at 100° C. for 24 h. The mixture was cooled in an ice bath and the orange precipitate was collected by filtration and dried (17.2 g).

reactant | N2 methyl-2,5-diacetamido-6-bromo-4-nitroindane | 61 mmol, 22.5 g | N#N.CC1C(CC2=C(C(=C(C=C12)Br)NC(C)=O)[N+](=O)[O-])NC(C)=O
reactant | HCl | 3N, 150 mL | Cl | ClH
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | N2 Methyl -2,5-diamino-6-bromo-4-nitroindane hydrochloride | N#N.Cl.CC1C(CC2=C(C(=C(C=C12)Br)N)[N+](=O)[O-])N | InChI=1S/C10H12BrN3O2.ClH.N2/c1-4-5-2-7(11)9(13)10(14(15)16)6(5)3-8(4)12;;1-2/h2,4,8H,3,12-13H2,1H3;1H;
